US07642270B2
A. 4-(3-Amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
Using the procedure outlined in Example 37 (A), the title compound was prepared from 1-fluoro-3-nitrobenzene (Ig, 7 mmol) and 1-Boc-piperazine (1.9 g, 10 mmol) 1H NMR (400 MHz, CDCl3) δ (ppm): 7.03 (t, J=8.0 Hz, 1H), 6.34 (d, J=8.2 Hz, 1H), 6.23 (m, 2H), 3.62 (br, 2H), 3.53 (m, 4H), 3.07 (m, 2H), 1.47 (s, 9H).

reactant | 1-fluoro-3-nitrobenzene | 7 mmol | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-Boc-piperazine | 10 mmol, 1.9 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-(3-Amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)N | C15H23N3O2
